US06831177B1
To a solution of 19.71 g (0.18 mol) of 2-acetylfuran in 120 ml of methylene chloride were added 42.9 ml (2.0 eq) of 4-fluorobenzylchloride and 36.6 g (1.5 eq) of zinc chloride. The mixture was refluxed for 12 hours. The precipitated crystal was filtered and washed with methylene chloride. The obtained solid was dissolved in water and extracted with ethylacetate. The organic layer was washed with water and a diluted aqueous solution of sodium hydrogencarbonate and dried over sodium sulfate. The solvent was evaporated under reduced pressure. The residue was recrystallized from n-hexane to give 16.4 g of 2-acetyl-5-(4-fluorobenzyl)furan. Yield: 42%. Mp: 27-29° C.

reactant | 2-acetylfuran | 0.18 mol, 19.71 g | C(C)(=O)C=1OC=CC1 | C6H6O2
reactant | 4-fluorobenzylchloride | 42.9 ml, 2.0 eq | FC1=CC=C(CCl)C=C1 | C7H6ClF
solvent | methylene chloride | 120 ml | C(Cl)Cl | CH2Cl2
catalyst | zinc chloride | 36.6 g, 1.5 eq | [Cl-].[Zn+2].[Cl-]
product | 2-acetyl-5-(4-fluorobenzyl)furan | 16.4 g, Yield: 42% | C(C)(=O)C=1OC(=CC1)CC1=CC=C(C=C1)F | C13H11FO2
